US06921763B2
To a solution of 3-chloro-1H-1λ6-benzo[d]isothiazole-1,1-dione (1.0 g, 0.00496 mol) in acetone (20 mL), 4-bromoaniline (1.71 g, 0.00992 mol) was added at once and the mixture was stirred for 15 min. The mixture was concentrated under reduced pressure and the residue was suspended in water (100 mL). The precipitate was collected by filtration, thoroughly washed with water and dried to yield 3-(4-bromoanilino)-1H-1λ6-benzo[d]isothiazole-1,1-dione (1.57 g, 0.00467 mol) as a white solid.

reactant | 3-chloro-1H-1λ6-benzo[d]isothiazole-1,1-dione | 0.00496 mol, 1.0 g | ClC1=NS(C2=C1C=CC=C2)(=O)=O | C7H4ClNO2S
reactant | 4-bromoaniline | 0.00992 mol, 1.71 g | BrC1=CC=C(N)C=C1 | C6H6BrN
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 3-(4-bromoanilino)-1H-1λ6-benzo[d]isothiazole-1,1-dione | 0.00467 mol, 1.57 g | BrC1=CC=C(NC2=NS(C3=C2C=CC=C3)(=O)=O)C=C1 | C13H9BrN2O2S
